Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: SURGERY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
s/p ___
 
Major Surgical or Invasive Procedure:
___: Suturing of facial laceration

 
History of Present Illness:
This patient is a ___ year old male who complains of
MVC. This patient came in as a trigger trauma evaluation. This
patient was involved in a single car crash. He was the
restrained driver who apparently went across several lanes
of traffic, and then flipped over the guard rail, rolled
over once or twice, and then self extricated. It is unclear
if he had loss of consciousness or not. The patient does not
remember all of the events suggesting syncope.
He has some facial pain but other than that, is
asymptomatic. He was hemodynamically stable on scene.
He is remarkably healthy for a man his age and his only
medication is low-dose aspirin.
 
Social History:
___
Family History:
noncontributory
 
Physical Exam:
ADMISSION PHYSICAL EXAMINATION
HR: 72 BP: 180/80 Resp: 20 O(2)Sat: 97% room air Normal
Constitutional: His GCS is 15.  Awake and alert and cooperative.
HEENT: Extraocular muscles intact.  He has a deep laceration
just lateral to the left nasal bridge. The eyeball does not
seem to be affected. Also an abrasion on the forehead.
Is in a cervical collar
Chest: Clear to auscultation
Cardiovascular: No murmur
Abdominal: Nontender
GU/Flank: No spine tenderness
Extr/Back: No long bone findings
Skin: Warm and dry
Neuro: Speech fluent moves all 4 extremities equally
Psych: Normal mentation

Discharge Physical Exam:
T: 98.0 PO  BP: 130/74  HR: 63   RR: 19   O2 sat: 95% RA
Gen: WD/WN, comfortable, NAD.
HEENT: Pupils: 4-3mm bilaterally        EOMs full
Ecchymosis around left eye, laceration above left eye.
Neck: Supple.
Extrem: Warm and well-perfused.
Neuro:
Mental status: Awake and alert, cooperative with exam, normal
affect.
Orientation: Oriented to person, place, and date.
Language: Speech fluent with good comprehension and repetition.
Naming intact. No dysarthria or paraphasic errors.

 
Pertinent Results:
___ 07:38AM BLOOD WBC-6.0 RBC-3.68* Hgb-11.6* Hct-34.5* 
MCV-94 MCH-31.5 MCHC-33.6 RDW-12.4 RDWSD-43.0 Plt ___
___ 07:40AM BLOOD WBC-9.3 RBC-3.67* Hgb-11.7* Hct-35.2* 
MCV-96 MCH-31.9 MCHC-33.2 RDW-12.5 RDWSD-43.3 Plt ___
___ 05:13PM BLOOD WBC-6.9 RBC-3.68* Hgb-11.7* Hct-34.7* 
MCV-94 MCH-31.8 MCHC-33.7 RDW-12.4 RDWSD-43.4 Plt ___
___ 07:40AM BLOOD Glucose-97 UreaN-18 Creat-1.0 Na-142 
K-4.2 Cl-106 HCO3-24 AnGap-12
___ 05:13PM BLOOD UreaN-26* Creat-1.3*
___ 07:40AM BLOOD Calcium-9.0 Phos-3.1 Mg-2.0
___ 05:13PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Bnzodzp-NEG Barbitr-NEG Tricycl-NEG

Imaging:

ECHO: Mild LVH with normal LV systolic function. No pathologic 
valvular flow identified

NCHCT:
1. Mild soft tissue swelling overlying the left forehead without
skull fracture identified. 
2. No acute infarction or intracranial hemorrhage identified. 
3. Prominent retrocerebellar CSF space which could represent 
___
cisterna magna versus arachnoid cyst. 

CT Chest A/P
1. No acute injury identified within the chest, abdomen, or 
pelvis. 
2. No acute fracture identified. 
3. Severe prostatomegaly with a thickened bladder wall which may 
suggest 
chronic urinary outlet obstruction. 

CT C-Spine
1. No acute fracture or traumatic malalignment 
2. Multilevel degenerative changes, as described above 

CXR
No acute cardiopulmonary process

Carotid US:
No stenosis of the carotid arteries bilaterally.

 
Brief Hospital Course:
___ year old M s/p MVC with possible syncopal event. Only 
injuries identified were a facial laceration which was sutured 
in the ED. The patient was admitted for observation and syncopal 
work-up. The patient was hemodynamicall stable. Tertiary exam 
was negative. Echo and carotid US was normal. The patient was 
not orthostatic. On telemetry, no cardiac events noted. 
Occupation Therapy evaluated the patient and recommended 
referral to outpatient cognitive neurology for post-concussive 
treatment. Neurosurgery was consulted for an incidental finding 
on NCHCT of a retrocerebellar CSF space, which could represent 
___ cisterna magna versus arachnoid cyst. They recommended no 
acute neurosurgical intervention
and no neurosurgery follow up needed.

Pain was well controlled. Diet was progressively advanced as 
tolerated to a regular diet with good tolerability. The patient 
voided without problem. During this hospitalization, the patient 
ambulated early and frequently, was adherent with respiratory 
toilet and incentive spirometry, and actively participated in 
the plan of care. The patient received subcutaneous heparin and 
venodyne boots were used during this stay.

At the time of discharge, the patient was doing well, afebrile 
with stable vital signs. The patient was tolerating a regular 
diet, ambulating, voiding without assistance, and pain was well 
controlled.  The patient was discharged home without services. 
The patient received discharge teaching and follow-up 
instructions with understanding verbalized and agreement with 
the discharge plan. He would follow-up with his PCP and come to 
___ clinic for eyebrow suture removal.

 
Medications on Admission:
Aspirin 81 mg PO DAILY  
Pravastatin 20 mg PO QPM  
Tamsulosin 0.4 mg PO QHS  

 
Discharge Medications:
1.  Acetaminophen 1000 mg PO Q8H:PRN Pain - Mild  
2.  Aspirin 81 mg PO DAILY  
3.  Pravastatin 20 mg PO QPM  
4.  Tamsulosin 0.4 mg PO QHS  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
[] Motor vehicle collision
[] Syncope
[] Facial laceration 

Incidental finding on head CT:
___ cisterna  magna versus arachnoid cyst 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted to ___ after a motor vehicle collision. You 
sustained a laceration to your forehead which was sutured in the 
Emergency Department. These sutures will dissolve in the next 
___ weeks. You underwent a syncope work-up to see if there was 
any cardiovascular cause of your passing out and crashing your 
car.  

Your echocardiogram showed some mild left ventricular 
hypertrophy, which would not cause syncope. You should follow-up 
with your PCP about these findings and to discuss ongoing 
monitoring. The carotid ultrasound was normal. Your orthopedic 
vital signs were also normal.

Incidentally, you were noted on head CT to have ___ cisterna  
magna versus an arachnoid cyst, which is likely congenital. 
Neurosurgery was consulted, and recommend a repeat head CT in 6 
months to monitor any interval change of this. 

Because you had a loss of consciousness, Occupational Therapy 
saw you to evaluate for a post-concussive syndrome. They 
recommend outpatient cognitive neurology in the traumatic brain 
injury clinic. Please call the schedule an appointment. 

Please call your doctor or nurse practitioner or return to the 
Emergency Department for any of the following:
*You experience new chest pain, pressure, squeezing or 
tightness.
*New or worsening cough, shortness of breath, or wheeze.
*If you are vomiting and cannot keep down fluids or your 
medications.
*You are getting dehydrated due to continued vomiting, diarrhea, 
or other reasons. Signs of dehydration include dry mouth, rapid 
heartbeat, or feeling dizzy or faint when standing.
*You see blood or dark/black material when you vomit or have a 
bowel movement.
*You experience burning when you urinate, have blood in your 
urine, or experience a discharge.
*Your pain in not improving within ___ hours or is not gone 
within 24 hours. Call or return immediately if your pain is 
getting worse or changes location or moving to your chest or 
back.
*You have shaking chills, or fever greater than 101.5 degrees 
Fahrenheit or 38 degrees Celsius.
*Any change in your symptoms, or any new symptoms that concern 
you.

Please resume all regular home medications, unless specifically 
advised not to take a particular medication. Also, please take 
any new medications as prescribed.

Please get plenty of rest, continue to ambulate several times 
per day, and drink adequate amounts of fluids.
 
Followup Instructions:
___